US04083896
Butadiene/styrene (70:30)
In the above example, the matrix phase must have about the same R.I. as the grafted rubber phase. The 80 percent by weight of matrix phase must be a blend of SAN and PMMA that matches the graft rubber phase having an R.I. of about 1.5390. A blend of about 42 percent of PMMA and 58 percent of SAN (76/24) was found to have a R.I. about 1.5385 matching the graft copolymer closely, giving a low haze polyblend. The refractive index was determined by an Abbe Refractometer with bromonapthalene as the immersion fluid using ASTM D-2225 at 25° C. The haze values were determined by: ##EQU1##

reactant | PMMA | CC(=C)C(=O)OC | C5H8O2
reactant | bromonapthalene | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
product | Butadiene styrene | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
